US06448261B1
N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-N-(1-propylbuty)pyridine-2,3,4-triamine
N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-3-nitro-N-(1-propyl-butyl)pyridin-2,4-diamine (0.7 g, 1.51 mmol), was suspended between dioxane (30 mL) and water (30 mL) containing conc.NH4OH (1.2 mL). To that Na2S2O4 was added (2.1 g, 12.06 mmol) and the mixture was stirred at 25° C. for 2h. Then an additional 1 g Na2S2O4 was added followd by 10 mL dioxane and 10 mL water. After stirring for 1 h at 25° C. the mixture was patritioned between EtOAc (120 mL) and water (20 mL). The EtOAc was washed with water (100 mL), brine, dried (MgSO4) and stripped in vacuo. The residue was chromatographed on silica gel (20% EtOAc/hexanes eluting solvent) to give the product (0.5 g).

reactant | N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-3-nitro-N-(1-propyl-butyl)pyridin-2,4-diamine | 1.51 mmol, 0.7 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=C1[N+](=O)[O-])N)C)C(CCC)CCC | C22H31BrN4O2
reactant | NH4OH | 1.2 mL | [NH4+].[OH-]
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | 1 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-[2-Bromo-4-(1-methylethyl)phenyl]-6-methyl-N-(1-propylbuty)pyridine-2,3,4-triamine | 0.5 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=C1N)N)C)C(CCC)CCC | C22H33BrN4
